USRE039420E1
43(i) Methyl 2-(4-methylthiophenacyl)acetoacetate
43(ii) Methyl 2-(4-methylsulfonylphenacyl)acetoacetate 4.42 g (15.8 mmol) of methyl 2-(4-methylthiophenacyl) acetoacetate [prepared as described in step (i) above] were dissolved in 150 ml of methylene chloride, and 7.77 g (31.5 mmol) of 70% m-chloroperbenzoic acid were added to the resulting solution, whilst ice-cooling. The mixture was then stirred at room temperature for 1 hour. 30 ml of a 10% w/v aqueous solution of sodium thiosulfate were added to the mixture, and the mixture was vigorously shaken, after which it separated into liquid phases. The organic layer was separated and washed with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate and the solvent was then removed by distillation under reduced pressure. The residue was applied to a silica gel chromatography column and eluted with a 1:1 by volume mixture of ethyl acetate and hexane, to give 3.65 g (yield 74%) of the title compound as a slightly yellow powder.

reactant | Methyl 2-(4-methylsulfonylphenacyl)acetoacetate | 15.8 mmol, 4.42 g | CS(=O)(=O)C1=CC=C(C(CC(C(=O)OC)C(=O)C)=O)C=C1 | C14H16O6S
reactant | m-chloroperbenzoic acid | 31.5 mmol, 7.77 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-methylthiophenacyl)acetoacetate | 3.65 g, yield 74% | CC1=CC=C(C(CC(C(=O)OC)C(=O)C)=S)C=C1 | C14H16O3S
